US09422292B2
Iron powder (7 g, 0.12 mol) was added to a mixture of methyl 3-(5-bromo-2-nitrophenylamino)-2-methyl-propanoate (8 g, 25.2 mmol) in the mixed solvents of ammonium chloride aqueous (50 mL) and ethanol (100 mL). Once addition was completed, the mixture was heated to 60° C. for 2 hours. The mixture was filtered. The filtrate was concentrated, diluted with water (100 mL), extracted with ethyl acetate (150 mL×3). The organic layers were separated, combined, dried over anhydrous sodium sulfate, filtered and concentrated to give a residue. The residue was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=3:1) to afford methyl 3-(2-amino-5-bromophenylamino)-2-methylpropanoate (6 g, 83%).

reactant | methyl 3-(5-bromo-2-nitrophenylamino)-2-methyl-propanoate | 25.2 mmol, 8 g | BrC=1C=CC(=C(C1)NCC(C(=O)OC)C)[N+](=O)[O-] | C11H13BrN2O4
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
catalyst | Iron | 0.12 mol, 7 g | [Fe] | Fe
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | methyl 3-(2-amino-5-bromophenylamino)-2-methylpropanoate | 6 g, 83% | NC1=C(C=C(C=C1)Br)NCC(C(=O)OC)C | C11H15BrN2O2
